* C:\Users\Dell\Documents\LTspice\GRaken _Snubber.asc
XU1 3.3V in 0 0 0 15V N001 Vgs 1ED3121MC12H
V1 3.3V 0 3.3
V2 15V 0 15
C1 3.3V 0 100n V=20
R1 Vgs N001 2.2
V3 120V 0 120
V4 in 0 PULSE(0 5 .5u 30n 21n 2u 4u 2)
C2 15V 0 4.7µ V=100
M1 Vds Vgs 0 0 BSZ16DN25NS3
R2 120V Vds 100 pwr=1000
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Dell\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10u
.lib C:\Users\Dell\Documents\LTspice\Infineon-1ED3121MC12H-PSpice-SimulationModels-v01_01-EN\Model\1ED3121MC12H.lib
.backanno
.end
